US04146718
6-Amino-2,3-Dichlorobenzyl Alcohol
A solution of borane (0.55 mol) in 550 ml of tetrahydrofuran was slowly added, over a period of 1 hour, to a solution of 5,6-dichloroanthranilic acid (44.5 g, 0.216 mol) in tetrahydrofuran (1200 ml). The solution was heated at reflux for 18 hours, cooled and treated slowly with 550 ml of 1N HCl. The tetrahydrofuran was removed in vacuo at 30° and the aqueous mixture was washed with ether and then made basic with concentrated NH4OH. The resulting solid was extracted with ether, dried (K2CO3) and the solvent was evaporated to leave 31.5 g. (76%) of the title compound as light pinkish needles, m.p. 133.5°-135°. An analytical sample was prepared by recrystallization from benzene; white needles, m.p. 134°-135.5°.

reactant | borane | 0.55 mol | B | BH3
reactant | 5,6-dichloroanthranilic acid | 0.216 mol, 44.5 g | ClC1=CC=C(C(C(=O)O)=C1Cl)N | C7H5Cl2NO2
reactant | HCl | 1N, 550 ml | Cl | ClH
solvent | tetrahydrofuran | 550 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1200 ml | O1CCCC1 | C4H8O
product | 6-Amino-2,3-Dichlorobenzyl Alcohol | 76% | NC1=CC=C(C(=C1CO)Cl)Cl | C7H7Cl2NO
